US05334740
3,4-(Dimethylmethylenedioxy)-2-hydroxy-5-hexen-1-yl p-toluenesulfonate (17.88 g) was dissolved in ml of methanol, and 17.11 g of anhydrous sodium carbonate was added at room temperature, followed by stirring the mixture for 15 minutes. The reaction mixture was filtered through Celite, and crystals were washed with diethyl ether. After the filtrate was concentrated, the solid was filtered through a silica gel column. The filtrate was concentrated under reduced pressure to obtain 7.87 g of 1,2-epoxy-3,4-(dimethylmethylenedioxy)-5-hexene having the following properties.

reactant | 3,4-(Dimethylmethylenedioxy)-2-hydroxy-5-hexen-1-yl p-toluenesulfonate | 17.88 g | C1(=CC=C(C=C1)S(=O)(=O)OCC(C1C(C=C)OC(O1)(C)C)O)C | C16H22O6S
reactant | sodium carbonate | 17.11 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | CO | CH4O
product | 1,2-epoxy-3,4-(dimethylmethylenedioxy)-5-hexene | 7.87 g | O1CC1C1C(C=C)OC(O1)(C)C | C9H14O3
